US07629336B2
Biphenyl-2-ylcarbamic Acid 1-(2-Methylaminoethyl)piperidin-4-yl Ester
To a Parr hydrogenation flask was added biphenyl-2-ylcarbamic acid 1-[2-(benzylmethylamino)ethyl]piperidin-4-yl ester (40 g, 0.09 mol; prepared as described in Preparation 3) and EtOH (0.5 L). The flask was flushed with nitrogen gas and palladium on activated carbon (15 g, 10 wt % (dry basis), 37% wt/wt) was added along with acetic acid (20 mL). The mixture was kept on the Parr hydrogenator under a hydrogen atmosphere (˜50 psi) for 3 hours. The mixture was then filtered and washed with EtOH. The filtrate was condensed and the residue was dissolved in a minimal amount of DCM. Isopropyl acetate (10 volumes) was added slowly to form a solid which was collected to provide 22.0 g of the title compound (70% yield). MS m/z: [M+H+] calcd for C21H27N3O2, 354.2; found, 354.3. Rf=2.96 min (10-70 ACN:H2O, reverse phase HPLC).

reactant | biphenyl-2-ylcarbamic acid 1-[2-(benzylmethylamino)ethyl]piperidin-4-yl ester | 0.09 mol, 40 g | C(C1=CC=CC=C1)CNCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C28H33N3O2
reactant | EtOH | 0.5 L | CCO | C2H6O
reactant | Isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-(2-Methylaminoethyl)piperidin-4-yl Ester | 22.0 g, 70% yield | CNCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C21H27N3O2
